US07601722B2
In an analogous manner to general procedure II, 1-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (prepared in an analogous manner as described in general procedure I, 115 mg, 0.41 mmol) was treated with triphenylphosphine (0.13 g, 0.49 mmol), tert-butyl (3-hydroxy-1-phenylpropyl)methylcarbamate (0.12 g, 0.45 mmol), and diisopropylazodicarboxylate (0.095 mL, 0.49 mmol) to provide 0.12 g tert-butyl {3-[3-(2,3-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-1-phenylpropyl}methylcarbamate.

reactant | 1-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | FC1=C(C=CC=C1F)N1S(NC2=C1C=CC=C2)(=O)=O | C12H8F2N2O2S
reactant | triphenylphosphine | 0.49 mmol, 0.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl (3-hydroxy-1-phenylpropyl)methylcarbamate | 0.45 mmol, 0.12 g | OCCC(C1=CC=CC=C1)N(C(OC(C)(C)C)=O)C | C15H23NO3
reactant | diisopropylazodicarboxylate | 0.49 mmol, 0.095 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | tert-butyl {3-[3-(2,3-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-1-phenylpropyl}methylcarbamate | 0.12 g | FC1=C(C=CC=C1F)N1S(N(C2=C1C=CC=C2)CCC(C2=CC=CC=C2)N(C(OC(C)(C)C)=O)C)(=O)=O | C27H29F2N3O4S
